US06187769B1
Synthesis of 4-(4-chlorobutyl)-4,5-dihydro-3-ethyl-1,4-benzoxazepin-5-one
430 mg of 4,5-dihydro-3-ethyl-1,4-benzoxazepin-5-one was dissolved in 10 ml of dimethylformamide, then 110 mg (1.2 equivalents) of 60% sodium hydride was added under ice cooling. This was agitated for 30 minutes, then 480 mg (1.2 equivalents) of 1-bromo-4-chlorobutane was added and the resultant mixture was agitated at room temperature for 6 hours.

reactant | 4,5-dihydro-3-ethyl-1,4-benzoxazepin-5-one | 430 mg | C(C)C1=COC2=C(C(N1)=O)C=CC=C2 | C11H11NO2
reactant | sodium hydride | 110 mg, 1.2 equivalents | [H-].[Na+]
reactant | 1-bromo-4-chlorobutane | 480 mg, 1.2 equivalents | BrCCCCCl | C4H8BrCl
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-(4-chlorobutyl)-4,5-dihydro-3-ethyl-1,4-benzoxazepin-5-one | ClCCCCN1C(=COC2=C(C1=O)C=CC=C2)CC | C15H18ClNO2
